US08835470B2
(R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)propanoic acid (Int-XV, (30 mg, 0.067 mmol), 4-methylmorpholine (27.3 mg, 0.269 mmol), and HATU (33.3 mg, 0.088 mmol) were added to DMF (1 mL). This was stirred for 1 h before it was purified by prep HPLC (PHENOMENEX® 21×250 mm, gradient elution with Method 1—MeOH/water containing 0.1% trifluoroacetic acid as defined above, 0% B to 100% B over 30 min, 25 mL/min, 220 nM, product retention=30.21 min) to provide (R/S)-N-(cyanomethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)propanamide (7 mg, 0.014 mmol, 20.16% yield): LCMS=484.0 [M+H]+; 1H NMR (400 MHz, methanol-d4) δ ppm 8.81 (1 H, t, J=5.83 Hz), 8.11-8.23 (2 H, m), 7.51-7.92 (7 H, m), 4.04-4.23 (2 H, m), 1.81 (3 H, s); HPLC peak RT=10.0 min (Method A).

reactant | (R/S)-2-Hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)propanoic acid | OC(C(=O)O)(C)C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F | C21H14F3N3O5
reactant | 4-methylmorpholine | 0.067 mmol, 30 mg | CN1CCOCC1 | C5H11NO
reactant | HATU | 0.088 mmol, 33.3 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
solvent | DMF | 1 mL | CN(C)C=O | C3H7NO
product | (R/S)-N-(cyanomethyl)-2-hydroxy-2-(4-(5-(3-phenyl-4-(trifluoromethyl)isoxazol-5-yl)-1,2,4-oxadiazol-3-yl)phenyl)propanamide | 0.014 mmol, 7 mg, 20.16% yield | C(#N)CNC(C(C)(C1=CC=C(C=C1)C1=NOC(=N1)C1=C(C(=NO1)C1=CC=CC=C1)C(F)(F)F)O)=O | C23H16F3N5O4
